US05013850
4-(1-Hydroxytridecyl)-2-trimethylsilylfuran (Compound 25)
A solution of 2-trimethylsilyl-4-furaldehyde (0.5 g, 2.97 mmol) in tetrahydrofuran (5 ml) was added to a solution of dodecyl magnesium bromide (5.95 mmol; prepared from 1.48 g dodecyl bromide and 146 mg magnesium turnings in 30 ml tetrahydrofuran) at room temperature. After 2 hours, the mixture was quenched with ammonium chloride solution and extracted thoroughly with ethyl ether. Evaporation of the dried (magnesium sulfate) extracts gave an oil which was flash chromatographed on silica using 10% ethyl ether/hexane. Fractions with Rf about 0.13 gave, after evaporation, the title alcohol as a pale yellow oil.

reactant | 2-trimethylsilyl-4-furaldehyde | 2.97 mmol, 0.5 g | C[Si](C=1OC=C(C1)C=O)(C)C | C8H12O2Si
reactant | dodecyl magnesium bromide | 5.95 mmol, 30 ml, 1.48 g | C(CCCCCCCCCCC)[Mg]Br
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(1-Hydroxytridecyl)-2-trimethylsilylfuran | OC(CCCCCCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C20H38O2Si
